US07241785B2
To a mixture of t-butoxy potassium (11.2 g) and dimethoxyethane (50 ml) was added a solution of p-toluenesulfonylmethyl isocyanide (10.3 g) in dimethoxyethane (50 ml) at −78° C. and the mixture was stirred for 5 min. Then a solution of 1-benzyl-3-benzyloxy-1H-pyrazole-4-carbaldehyde (14.6 g) in dimethoxyethane (50 ml) was added. After stirring at said temperature for 1 hr, the mixture was stirred for 1 hr. while raising the temperature to room temperature. To the obtained mixture was added methanol (150 ml), and the mixture was refluxed for 1 hr. After cooling, the reaction solution was poured into saturated aqueous ammonium chloride solution and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and 1-benzyl-3-benzyloxy-1H-pyrazol-4-ylacetonitrile (13.1 g, yield 86%) was obtained as a colorless oil from a fraction eluted with ethyl acetate-hexane (1:3, volume ratio).

reactant | t-butoxy potassium | 11.2 g | C(C)(C)(C)O[K]
reactant | p-toluenesulfonylmethyl isocyanide | 10.3 g | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | 1-benzyl-3-benzyloxy-1H-pyrazole-4-carbaldehyde | 14.6 g | C(C1=CC=CC=C1)N1N=C(C(=C1)C=O)OCC1=CC=CC=C1 | C18H16N2O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethoxyethane | 50 ml | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 50 ml | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 50 ml | C(OC)COC | C4H10O2
solvent | methanol | 150 ml | CO | CH4O
product | 1-benzyl-3-benzyloxy-1H-pyrazol-4-ylacetonitrile | 13.1 g, yield 86% | C(C1=CC=CC=C1)N1N=C(C(=C1)CC#N)OCC1=CC=CC=C1 | C19H17N3O
